US09371319B2
Preparation 103: 1-(4-Amino-3-chlorophenyl)pyrrolidin-2-one
1-(4-Aminophenyl)pyrrolidin-2-one (0.3 g, 1.7 mmol) and N-chlorosuccinimide (0.227 g, 1.7 mmol) were dissolved in acetonitrile (10 ml). The reaction was stirred and heated at reflux for 2 hours. The solvent was removed in vacuum and the residue purified by silica gel column chromatography eluting with 50% ethyl acetate in dichloromethane to afford the title compound as a white powder (0.16 g, 44.6%). 1H-NMR (500 MHz, CDCl3): δ 2.14 (m, 2H), 2.57 (t, J=8.3 Hz, 2H), 3.77 (t, J=7.1 Hz, 2H), 6.75 (d, J=8.7 Hz, 1H), 7.31 (dd, J=2.5 Hz, 8.7 Hz, 1H), 7.48 (d, J=2.5 Hz, 1H), 8.8 (s, 2H).

reactant | 1-(4-Aminophenyl)pyrrolidin-2-one | 1.7 mmol, 0.3 g | NC1=CC=C(C=C1)N1C(CCC1)=O | C10H12N2O
reactant | N-chlorosuccinimide | 1.7 mmol, 0.227 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 1-(4-Amino-3-chlorophenyl)pyrrolidin-2-one | 0.16 g, 44.6% | NC1=C(C=C(C=C1)N1C(CCC1)=O)Cl | C10H11ClN2O
